US07192968B2
(1R*,2S*,4R*)-N2-tert-Butoxycarbonyl-N1-[(5-chloroindol-2-yl)carbonyl]-4-ethoxycarbonyl-1,2-cyclohexanediamine
(1R*,2S*,4R*)-N2-tert-Butoxycarbonyl-4-ethoxycarbonyl-1,2-cyclohexanediamine (4.62 g) was dissolved in dichloromethane (50 ml), 5-chloroindole-2-carboxylic acid (3.63 g), 1-hydroxybenzotriazole monohydrate (2.43 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (3.45 g) were added at room temperature, and the mixture was stirred for 12 hours. After 0.1N hydrochloric acid was added, and the mixture was extracted with dichloromethane, the resultant organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated saline and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=2:3) to obtain the title compound (5.3 g) as a colorless solid.

reactant | (1R*,2S*,4R*)-N2-tert-Butoxycarbonyl-4-ethoxycarbonyl-1,2-cyclohexanediamine | 4.62 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CC[C@H](C1)C(=O)OCC)N | C14H26N2O4
reactant | 5-chloroindole-2-carboxylic acid | 3.63 g | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1-hydroxybenzotriazole monohydrate | 2.43 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.45 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (1R*,2S*,4R*)-N2-tert-Butoxycarbonyl-N1-[(5-chloroindol-2-yl)carbonyl]-4-ethoxycarbonyl-1,2-cyclohexanediamine | 5.3 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CC[C@H](C1)C(=O)OCC)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C23H30ClN3O5
